US04143055
N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)diacetamide
A reaction mixture consisting of 2.4 grams of 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine, 10 cc of acetic anhydride and one drop of pyridine is heated to 130°-140° C. for 90 minutes. After cooling and evaporating the excess of acetic anhydride, the residue is distilled under reduced pressure yielding 2.4 grams (69 percent of theoretical) of the compound of the title. B.p./0.4 mmHg 160° C. The distillate which solidifies is crystallized from ethyl ether-petroleum ether. M.p. 56°-57° C.

reactant | 2,3-dihydro-6-methoxy-2-methyl-4-benzofuranamine | 2.4 grams | COC=1C=C2C(CC(O2)C)=C(C1)N | C10H13NO2
catalyst | pyridine | one drop | N1=CC=CC=C1 | C5H5N
solvent | acetic anhydride | 10 cc | C(C)(=O)OC(C)=O | C4H6O3
product | N-(2,3-dihydro-6-methoxy-2-methyl-4-benzofuranyl)diacetamide | COC1=CC2=C(CC(O2)C)C(=C1)N(C(C)=O)C(=O)C | C14H17NO4
